US08067599B2
5-Amino-N-(3H-imidazo[4,5-b]pyridin-6-yl)-2-methyl-benzamide
0.75 g of N-(3H-Imidazo[4,5-b]pyridin-6-yl)-2-methyl-5-nitro-benzamide in 20 ml methanol were hydrogenated over 10% palladium on charcoal at room temperature and atmospheric pressure. After 3 hrs conversion was complete as judged by HPLC/MS and the catalyst was filtered off. The filtrate was evaporated and the residue was used without further purification for the next steps.

reactant | N-(3H-Imidazo[4,5-b]pyridin-6-yl)-2-methyl-5-nitro-benzamide | 0.75 g | N1=CNC2=NC=C(C=C21)NC(C2=C(C=CC(=C2)[N+](=O)[O-])C)=O | C14H11N5O3
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | 5-Amino-N-(3H-imidazo[4,5-b]pyridin-6-yl)-2-methyl-benzamide | NC=1C=CC(=C(C(=O)NC=2C=C3C(=NC2)NC=N3)C1)C | C14H13N5O
